US07241791B2
(2,3-Difluorophenyl)-(4-methoxy-3-methyl-phenyl)-methanone
Prepared according to Method A step B from 2,3-difluoro-N-methoxy-N-methyl-benzamide (2.5 g, 12.4 mmol) and 4-methoxy-3-methyl-phenylmagnesium bromide (26 mL, 0.5 M in THF) to give 0.97 g of the title compound as a white solid.

reactant | 2,3-difluoro-N-methoxy-N-methyl-benzamide | 12.4 mmol, 2.5 g | FC1=C(C(=O)N(C)OC)C=CC=C1F | C9H9F2NO2
reactant | 4-methoxy-3-methyl-phenylmagnesium bromide | 0.5 M, 26 mL | COC1=C(C=C(C=C1)[Mg]Br)C
product | (2,3-Difluorophenyl)-(4-methoxy-3-methyl-phenyl)-methanone | 0.97 g | FC1=C(C=CC=C1F)C(=O)C1=CC(=C(C=C1)OC)C | C15H12F2O2
